US07157488B2
Combine potassium hydroxide (3 g, 0.054 mol) and phenol (15 g, 0.16 mol), and heat to 110° C. until the potassium hydroxide is dissolved. Cool the mixture to room temperature and add 5-fluoro-2-nitrotoluene (7.75 g, 0.05 mol) in one aliquot. Heat the reaction mixture to 130° C. for 30 min, cool to room temperature, and then pour into 10% NaOH (200 mL). Extract the aqueous solution with ether (2×100 mL), combine the organic layers and wash with 10% NaOH (2×100 mL), water (2×100 mL), dry over Na2SO4 and concentrate in vacuo. Chromatograph on silica gel eluting with hexanes/ethyl acetate to give 2-nitro-5-phenoxytoluene as a solid: 1H NMR (300 MHz, CDCl3) 2.59 (s, 3H), 6.81–6.85 (m, 2H), 7.06–7.09 (m, 2H), 7.22–7.26 (m, 1H), 7.40–7.45 (m, 2H), 8.03–8.06 (m, 1H).

reactant | potassium hydroxide | 0.054 mol, 3 g | [OH-].[K+]
reactant | phenol | 0.16 mol, 15 g | C1(=CC=CC=C1)O | C6H6O
reactant | 5-fluoro-2-nitrotoluene | 0.05 mol, 7.75 g | FC=1C=CC(=C(C1)C)[N+](=O)[O-] | C7H6FNO2
solvent | NaOH | 200 mL | [OH-].[Na+]
product | 2-nitro-5-phenoxytoluene | [N+](=O)([O-])C1=C(C=C(C=C1)OC1=CC=CC=C1)C | C13H11NO3
